US08865712B2
i) (R)-2-[(R)-2-(6-Bromo-3-fluoro-pyridin-2-yl)-2-(4-nitro-benzenesulfonylamino)-propoxy]-3,3,3-trifluoro-2-methyl-propionamide
A solution of (R)-2-[(R)-2-(6-bromo-3-fluoro-pyridin-2-yl)-2-(4-nitro-benzenesulfonylamino)-propoxy]-3,3,3-trifluoro-2-methyl-propionic acid ethyl ester (16.93 g, 28.1 mmol) in a NH3/MeOH (7M, 482 ml) was stirred at 50° C. in a sealed vessel for 26 h. The reaction mixture was evaporated and the residue was crystallized from DCM to yield 9.11 g of the title compound as colorless crystals.

reactant | (R)-2-[(R)-2-(6-bromo-3-fluoro-pyridin-2-yl)-2-(4-nitro-benzenesulfonylamino)-propoxy]-3,3,3-trifluoro-2-methyl-propionic acid ethyl ester | 28.1 mmol, 16.93 g | C(C)OC([C@@](C(F)(F)F)(C)OC[C@](C)(NS(=O)(=O)C1=CC=C(C=C1)[N+](=O)[O-])C1=NC(=CC=C1F)Br)=O | C20H20BrF4N3O7S
reactant | NH3 MeOH | 7M, 482 ml | N.CO
product | (R)-2-[(R)-2-(6-Bromo-3-fluoro-pyridin-2-yl)-2-(4-nitro-benzenesulfonylamino)-propoxy]-3,3,3-trifluoro-2-methyl-propionamide | 9.11 g | BrC1=CC=C(C(=N1)[C@@](CO[C@](C(=O)N)(C(F)(F)F)C)(C)NS(=O)(=O)C1=CC=C(C=C1)[N+](=O)[O-])F | C18H17BrF4N4O6S
